US07323475B2
a. 4-Benzyloxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester
To a solution of Pyridin-2-ylboronic acid (323 mg, 2.5 mmol) in EtOH (2.5 ml) was added subsequently toluene (15 ml), 4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester (1.035 mg, 2.5 mmol, see example D-86a), Pd(PPh3)4 (292 mg, 0.25 mmol), and aq. 2 M Na2CO3 solution (2.5 ml, 5 mmol). The mixture was then refluxed with stirring under N2 protection for 24 h. Subsequently, the mixture was concentrated in vacuo. To the residue was added water (15 ml) and the mixture was extracted with EtOAc (30 ml). The organic phase was dried over MgSO4 and evaporated in vacuo. Purification of the residue by flash column chromatography on silica gel using CH2Cl2 MeOH=98 2 as the eluent gave a dark oil that was further purified by flash column chromatography on silica gel using CH2Cl2 MeOH=99 1 as the eluent and subsequently by preparative TLC using CH2Cl2 MeOH=98 2 as the eluent (had to be repeated several times) to give the title compound as a yellow oil (19 mg); MS-(+)-ion M+1=413.2.

reactant | Pyridin-2-ylboronic acid | 2.5 mmol, 323 mg | N1=C(C=CC=C1)B(O)O | C5H6BNO2
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-Benzyloxy-1-bromo-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)Br | C21H20BrNO3
reactant | Na2CO3 | 5 mmol, 2 M, 2.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 2.5 ml | CCO | C2H6O
catalyst | Pd(PPh3)4 | 0.25 mmol, 292 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Benzyloxy-1-pyridin-2-yl-isoquinoline-3-carboxylic acid butyl ester | 19 mg | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1OCC1=CC=CC=C1)C1=NC=CC=C1 | C26H24N2O3
